Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide / shellfish derived
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with coronary angiography and 
percutaneous coronary intervention with DES

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:23PM BLOOD WBC-7.2 RBC-4.41* Hgb-13.1* Hct-39.6* 
MCV-90 MCH-29.7 MCHC-33.1 RDW-13.9 RDWSD-45.6 Plt ___
___ 09:23PM BLOOD Neuts-51.1 ___ Monos-11.0 Eos-1.7 
Baso-0.7 Im ___ AbsNeut-3.65 AbsLymp-2.52 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.05
___ 09:23PM BLOOD ___ PTT-150* ___
___ 09:23PM BLOOD Plt ___
___ 09:23PM BLOOD Glucose-101* UreaN-16 Creat-1.0 Na-141 
K-4.1 Cl-103 HCO3-27 AnGap-11
___ 09:23PM BLOOD CK-MB-4 cTropnT-1.53*
___ 02:59AM BLOOD CK-MB-3 cTropnT-1.67*
___ 07:10AM BLOOD CK-MB-4 cTropnT-1.37*
___ 09:23PM BLOOD Calcium-9.0 Phos-3.0 Mg-2.2
___ 09:23PM BLOOD %HbA1c-5.8 eAG-120
___ 07:10AM BLOOD Triglyc-66 HDL-44 CHOL/HD-3.2 LDLcalc-83

REPORTS:
=========
TTE ___:
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
There is mild symmetric left ventricular hypertrophy with a 
normal cavity size. There is a small to moderate
area of regional left ventricular systolic dysfunction with 
hypokinesis of the basal inferior wall and mid to distal
anterior/ anterolateral/lateral walls(see schematic) and 
preserved/normal contractility of the remaining
segments. Quantitative 3D volumetric left ventricular ejection 
fraction is 47 % (normal 54-73%).
Left ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow
tract gradient. Tissue Doppler suggests an increased left 
ventricular filling pressure (PCWP greater than 18
mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal
for gender with a normal ascending aorta diameter for gender. 
The aortic arch diameter is normal with a
normal descending aorta diameter. The aortic valve leaflets are 
moderately thickened. There is moderate
aortic valve stenosis (valve area 1.0-1.5 cm2). There is trace 
aortic regurgitation. The mitral valve leaflets are
mildly thickened with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The pulmonic valve
leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is high normal. There is a trivial pericardial
effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction
most consistent with multivessel coronary artery disease, with 
mildly depressed ejection fraction.
Normal right ventricular size and function. Moderate aortic 
stenosis. Mild mitral and tricuspid
regurgitation.

CARDIAC CATHETERIZATION ___:
Coronary Description
The coronary circulation is left dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel and is normal. This vessel
bifurcates into the Left Anterior Descending and Left Circumflex 
systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There
are tandem 80% stenoses in the mid segment which is small in 
caliber (approx 2.0 mm) and calcified.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber and dominant vessel vessel.
There is a 90% stenosis in the proximal segment.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
small caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
The Atrioventricular Circumflex, arising from the mid segment, 
is a medium caliber vessel.
The Left Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a small caliber and non-dominant
vessel and is normal.
Interventional Details
Had detailed discussion with the patient and referring 
cardiologist (together with review of images).
Very likely culprit stenosis here is in the LCX. Option of CABG 
discussed. Decision made to perform
PCI on the LCX. Percutaneous Coronary Intervention: Percutaneous 
coronary intervention (PCI) was
performed on an ad hoc basis based on the coronary angiographic 
findings from the diagnostic portion
of this procedure. A 6 ___ EBU 3.75 guide provided adequate 
support. Crossed with a Prowater wire
into the distal LCX. Predilated with a 3.0 mm balloon. There was 
subsequent dissection at the site of
angioplasty with slow flow distally, so this segment was quickly 
stented. Deployed a 3.5 mm x 24 mm
Promus DES at high pressure which was further post-dilated using 
a 3.5mm NC balloon. IVUS was then
performed showing presence of intramural hematoma without 
dissections proximal or distal to the
stented segment. The stent appeared under-sized compared to the 
vessel, so was further postdilated with
a 4.0 mm balloon at high pressure. Final angiography revealed 
normal flow, no dissection and 0%
residual stenosis.
Intravascular Ultrasound Imaging: An intravascular ultrasound 
(IVUS) imaging catheter was passed
over the coronary wire distal to the region of interest. 
Coronary IVUS images were acquired by
automated catheter pullback. After completion of intravascular 
imaging, the IVUS catheter was removed
and control angiography performed to confirm vessel patency.
Complications
There were no clinically significant complications.
Findings
• Two vessel coronary artery disease.
• Successful PCI with drug-eluting stent of the circumflex 
coronary artery.
Recommendations
• ASA 81mg per day indefinitely.
• ___ 75mg/day for 12 months minimum
• Secondary prevention of CAD
• Medical management of mid to distal LAD disease.
I was physically present during all critical and key components

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-7.2 RBC-4.42* Hgb-13.2* Hct-40.1 
MCV-91 MCH-29.9 MCHC-32.9 RDW-14.1 RDWSD-46.9* Plt ___
___ 06:00AM BLOOD ___ PTT-26.4 ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-13 Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-24 AnGap-10
___ 06:00AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
SUMMARY STATEMENT:
==================
Mr. ___ is a ___ year old ___ man with 
hypertension, hyperlipidemia, AAA under surveillance, atrial 
fibrillation on Coumadin who presented to ___ with 
exertional chest pain. He was found to have troponin elevation 
with no ischemic changes on EKG. He was loaded with ASA and 
started on heparin gtt before being transferred to ___ 
for further management. He underwent cardiac catheterization 
that demonstrated 2 vessel disease (LCx and LAD) with a 
drug-eluting stent placed in the LCx. On day of discharge he was 
optimized on medical management and was chest pain free.

TRANSITIONAL ISSUES:
====================
[] Pt on triple therapy of ASA, ___, and Warfarin for DES and 
afib. Should remain on triple therapy for 1 month. After 1 month 
would d/c ASA and continue on ___ for another 11 
months. After a total of 12 months on ___ need 
reassessment for need of DAPT. Will likely d/c ___ and 
re-introduce ASA after ___ year.
[] Pt Coumadin was held for cardiac catheterization. Given 
CHADS-Vasc < 7, heparin bridge was not necessary on 
re-introduction of warfarin. His last dose was 3.75mg on 
___ with INR 1.2.
[] Pt with several episodes of inattentiveness and 
disorientation. Delirium vs more chronic problem. Pt may benefit 
from further neurocognitive testing.

ACTIVE ISSUES: 
=============== 
#NSTEMI:
Presented to his cardiologist with recent stable and unstable 
angina, sent to the ___, where he was found to have 
troponin peak at 1.67, EKG without evidence ischemia. He was ASA 
loaded and started on heparin gtt. After transfer patient had 
TTE that demonstrated LVEF 47% and mild symmetric left 
ventricular hypertrophy with mild regional systolic dysfunction 
most consistent with multi-vessel coronary artery disease. He 
subsequently underwent a cardiac catheterization initially with 
R radial access, however due to tortuosity of radial artery was 
switched to R femoral. Coronary angiography revealed a tandem 
80% stenosis in a small caliber mid-LAD, as well as a 90% 
stenosis in the proximal Circumflex, which was a large caliber 
and dominant vessel. Successful PCI with drug-eluting stent was 
placed in Cx. The LAD lesions were not intervened upon. He was 
loaded with ___ and continued on DAPT in addition to warfarin 
for afib. He will remain on triple therapy for 1 month, followed 
by only ___ + warfarin for 11 months, followed by ASA + 
warfarin indefinitely. On day of discharge he was chest pain 
free and recovered appropriately from catheterization.

#Paroxysmal Afib:
On admission his Coumadin was held iso NSTEMI and anticipated 
catheterization. After the procedure he was restarted on home 
Coumadin. Given a CHADs-VASC: 3 he was not bridged with an 
additional anticoagulant while waiting for therapeutic INR. On 
day of discharge he was given home dose warfarin 3.75mg with INR 
1.2.

#Episode of confusion
#?Delirium
Unclear exactly the etiology of this episode, but wife reports 
it was associated with a period of hypotension, with SBPs in the 
___ on their home monitor. No reported neurologic deficits. Also 
mildly hypoglycemic on arrival to ___ (glucose 64). During 
the hospitalization patient had several episodes of confusion 
that were not associated with change in vitals or medications. 
Pt did not have altered consciousness but did lose attentiveness 
and was disoriented. 

#HTN: 
Held home lisinopril initially, but was resumed on day of 
discharge

CHRONIC ISSUES: 
================ 
#BPH:
S/p TURP, asymptomatic during hospitalization. Continued home 
tamsulosin

#HLD:
Continued home atorvastatin 80mg

#AS:
Stable
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Tamsulosin 0.4 mg PO BID 
5. Warfarin 3.75 mg PO DAILY16 
6. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Lisinopril 5 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO BID  
8.  Warfarin 3.75 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Coronary artery disease - 2 vessel (LCx and LAD)
- Non-ST segment elevation myocardial infarction
 

SECDONARY DIAGNOSIS:
====================
- Paroxysmal atrial fibrillation 
- Hypertension
- Benign prostatic hyperplasia
- Hyperlipidemia
- Aortic stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at ___ 
___.  
  
WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital because you had chest pain 
and were found to have a heart attack

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You had blood tests that showed evidence of heart attack
- You underwent a procedure called cardiac catheterization that 
allowed us to map out the vessels in your heart. We saw a 
blockage of 2 of the vessels, which is consistent with your pain 
that brought you into the hospital.
- One of the vessels had a stent placed to help keep it open

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that is not 
getting better with rest or nitroglycerine you should call ___.  

- You should attend the appointments listed below.   

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___